US05700761
Preparation of diethyl cis-1,2-cyclopropanedicarboxylate
To a stirred suspension of 32.8 g (818.8 mmol) of 60% sodium hydride mineral oil dispersion in 200 mL of toluene under nitrogen, was added between 10 to 20 mL of a blend of ethyl acrylate (81.2 g, 810.7 mmol) and ethyl chloroacetate (99.4 g, 810.7 mmol) followed by several drops of ethanol. After an induction period of about 1 h, steady gas and heat evolution began with the reaction mixture temperature reaching 35° C. The remaining mixed ester reagent was carefully added dropwise with ice-bath cooling so as to maintain a reaction temperature of 30°-80° C. After the addition was complete (4 h), the mixture was cooled to room temperature and carefully poured into water (300 mL). The organic layer was separated and dried (MgSO4) and evaporated to a dry residue. The dry residue was chromatographed on silica gel using 10% ethyl acetate in hexane as the eluant. The fractions containing the desired compound were combined and evaporated to dryness under reduced pressure to give 53.0 g of the title compound of Step A as a clear oil (35% yield). IR (neat, cm-1): 1728.9 (C=O);

reactant | sodium hydride | 818.8 mmol, 32.8 g | [H-].[Na+]
reactant | ethyl acrylate | 810.7 mmol, 81.2 g | C(C=C)(=O)OCC | C5H8O2
reactant | ethyl chloroacetate | 810.7 mmol, 99.4 g | ClCC(=O)OCC | C4H7ClO2
reactant | water | 300 mL | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | ethanol | several drops | C(C)O | C2H6O
product | diethyl cis-1,2-cyclopropanedicarboxylate | 53.0 g, 35% yield | [C@@H]1([C@H](C1)C(=O)OCC)C(=O)OCC | C9H14O4
